US07709483B2
(a) 3-Ethyl 1,1-dimethyl 1,1,3-propanetricarboxylate
To a solution of dimethyl malonate (2.5 g, 18.9 mmol) in anhydrous THF (20 mL) was added NaH (0.038 g, 0.95 mmol, 60% in mineral oil). The reaction was stirred at ambient temperature for 15 minutes. In a separate flask, ethyl acrylate was dissolved in anhydrous THF (1 mL) and then added dropwise over 30 minutes to the dimethyl malonate solution. The reaction was stirred at ambient temperature for 16 h and then concentrated under vacuum. The residue was dissolved in EtOAc (ethyl acetate) and washed with saturated NH4Cl solution and brine. The organic phase was dried over Na2SO4, filtered, and concentrated under vacuum. The crude residue was purified by column chromatography (silica gel) using an EtOAc/hexanes gradient to yield the desired compound as a colorless oil (1.68 g, 77%).

reactant | dimethyl malonate | 18.9 mmol, 2.5 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | NaH | 0.95 mmol, 0.038 g | [H-].[Na+]
reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 3-Ethyl 1,1-dimethyl 1,1,3-propanetricarboxylate | 1.68 g, 77% | C(CCC(=O)OCC)(C(=O)OC)C(=O)OC | C10H16O6
